US06028195
1-[N-Ethyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(100 mg, 0.25 mmol) was dissolved in dimethylformamide(15 ml) and thereto sodium hydride(6.0 mg, 0.25 mmol) was added, followed by stirring at room temperature for 15 min and then iodoethane(39.2 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 16 hrs, concentrated under the reduced pressure to remove dimethylformamide, and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.25 mmol, 100 mg | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H28N4O4
reactant | sodium hydride | 0.25 mmol, 6.0 mg | [H-].[Na+]
reactant | iodoethane | 0.25 mmol, 39.2 mg | ICC | C2H5I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Ethyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 86% | C(C)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C=1C(=NC(=C(C1)C)C)OC | C23H32N4O4
